US06677324B1
h) 7α-(5-Acetoxypentyl)-11β-fluoro-3-(tetrahydro-pyran-2-yloxy)oestra-1,3,5(10)-trien-17-one
8.2 g of 7α-(5-acetoxypentyl)-11β-fluoro-3-hydroxyestra-1,3,5(10)-trien-17-one in 86 ml of THF are stirred at RT for 2.5 h with 8.6 ml of 3,4-dihydro-2H-pyran and 820 mg of p-toluenesulphonic acid. 0.5 ml of triethylamine is then added, and the mixture is diluted with ethyl acetate, washed with saturated sodium chloride solution, dried and concentrated in vacuo. After chromatographing the crude product on silica gel using a hexane-ethyl acetate gradient, 7.8 g of 7α-(5-acetoxypentyl)-11β-fluoro-3-(tetrahydropyran-2-yloxy) oestra-1,3,5(10)-trien-17-one are obtained as a foam.

reactant | 7α-(5-acetoxypentyl)-11β-fluoro-3-hydroxyestra-1,3,5(10)-trien-17-one | 8.2 g | C(C)(=O)OCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2C=2C=CC(=CC2C1)O)F)=O | C25H33FO4
reactant | 3,4-dihydro-2H-pyran | 8.6 ml | O1CCCC=C1 | C5H8O
reactant | p-toluenesulphonic acid | 820 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 86 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7α-(5-Acetoxypentyl)-11β-fluoro-3-(tetrahydro-pyran-2-yloxy)oestra-1,3,5(10)-trien-17-one | C(C)(=O)OCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2C=2C=CC(=CC2C1)OC1OCCCC1)F)=O | C30H41FO5
